US05760032
4-(2-Chlorophenyl)-2-(2-(4-isobutylphenyl)ethyl)-9-methyl-6H-thieno[3,2-f] [1,2,4]triazolo[4,3-a] [1,4]diazepine described in Example 1 of Japanese Patent Publication No. 55510/1993 was dissolved in a 5% aqueous hydrochloric acid solution, and the solution was stirred at 60° C. for 5 hours. A saturated aqueous sodium hydrogencarbonate solution was added to the reaction mixture to make the mixture alkaline. Chloroform and 3,4-dichlorobenzoyl chloride were added, and the mixture was stirred under ice-cooling for 1 hour. The organic layer was washed with an aqueous citric acid solution, a saturated aqueous sodium hydrogencarbonate solution and saturated brine, and dried over magnesium sulfate. The solvent was evaporated, and the residue was purified to give N-(4-(3-(2-chlorobenzoyl)-5-(2-(4-isobutylphenyl)ethyl)thiophen-2-yl)-5-methyl[1,2,4]triazol-3-ylmethyl)-3,4-dichlorobenzamide.

reactant | 4-(2-Chlorophenyl)-2-(2-(4-isobutylphenyl)ethyl)-9-methyl-6H-thieno[3,2-f] [1,2,4]triazolo[4,3-a] [1,4]diazepine | ClC1=C(C=CC=C1)C1=NCC=2N(C3=C1C=C(S3)CCC3=CC=C(C=C3)CC(C)C)C(=NN2)C | C27H27ClN4S
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | Chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | 3,4-dichlorobenzoyl chloride | ClC=1C=C(C(=O)Cl)C=CC1Cl | C7H3Cl3O
solvent | hydrochloric acid | Cl | ClH
product | N-(4-(3-(2-chlorobenzoyl)-5-(2-(4-isobutylphenyl)ethyl)thiophen-2-yl)-5-methyl[1,2,4]triazol-3-ylmethyl)-3,4-dichlorobenzamide | ClC1=C(C(=O)C2=C(SC(=C2)CCC2=CC=C(C=C2)CC(C)C)N2C(=NN=C2C)CNC(C2=CC(=C(C=C2)Cl)Cl)=O)C=CC=C1 | C34H31Cl3N4O2S
